US07179801B2
To a solution of 2-(5-amino-1-methylpyrazol-4-yl)ethylamine dihydrochloride (2.98 g, 14 mmol) in methanol (50 ml) was added 28% sodium methoxide solution in methanol (5.4 ml, 28 mmol). The mixture was filtered through Celite, and the filtrate was concentrated in vacuo. A mixture of the residue and ethyl formate (80 ml) was stirred under reflux for 16 hours. To the reaction mixture was added chloroform, and the mixture was filtered through Celite. The filtrate was concentrated in vacuo to give N-[2-(5-amino-1-methylpyrazol-4-yl)ethyl]formamide (2.7 g) as a brown oil. 1H-NMR(CDCl3) δ2.57 (2H, t, J=6.9 Hz), 3.40–3.44 (2H, m), 3.67(3H, s), 5.77 (1H, br), 7.15 (1H, s), 8.16 (1H, s)

reactant | 2-(5-amino-1-methylpyrazol-4-yl)ethylamine dihydrochloride | 14 mmol, 2.98 g | Cl.Cl.NC1=C(C=NN1C)CCN
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 28 mmol, 5.4 ml | CO | CH4O
product | N-[2-(5-amino-1-methylpyrazol-4-yl)ethyl]formamide | 2.7 g | NC1=C(C=NN1C)CCNC=O | C7H12N4O
